US07399778B2
4-Chloro-N-{2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butyl}benzenesulfonamide
The compound of example 2 was synthesized from {2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butyl}amine in a manner similar to that of example 1 but using 4-chlorobenzenesulfonyl chloride as the sulfonyl chloride in step 1 D. The product was isolated as white foam in 52% yield.

reactant | {2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butyl}amine | C(C)C(C(C1=CC=NN1CC1=CC=C(C=C1)OC)N)CC | C17H25N3O
reactant | 4-chlorobenzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 4-Chloro-N-{2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butyl}benzenesulfonamide | 52% yield | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(CC)CC)C1=CC=NN1CC1=CC=C(C=C1)OC | C23H28ClN3O3S
